US06100268
N-[(2,3,4,7,8,9-hexahydrobenzo[2,1-b:3,4-b']dipyran-2-yl)methyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propanediamine;
N-[(2,3,4,7,8,9-hexahydrocyclopenta[h]-1-benzopyran-2-yl)methyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propanediamine; N-[(2,3,7,8-tetrahydro-9H-pyrano[2,3-f]-1,4-benzodioxin-9-yl)methyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propanediamine;

reactant | N-[(2,3,4,7,8,9-hexahydrocyclopenta[h]-1-benzopyran-2-yl)methyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propanediamine | O1C(CCC2=C1C1=C(C=C2)CCC1)CNCCCNC=1NCCCN1 | C20H30N4O
reactant | N-[(2,3,7,8-tetrahydro-9H-pyrano[2,3-f]-1,4-benzodioxin-9-yl)methyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propanediamine | O1CCOC2=C1C1=C(C=C2)CCC(O1)CNCCCNC=1NCCCN1 | C19H28N4O3
product | N-[(2,3,4,7,8,9-hexahydrobenzo[2,1-b:3,4-b']dipyran-2-yl)methyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propanediamine | O1C2=C(CCC1CNCCCNC=1NCCCN1)C=CC1=C2OCCC1 | C20H30N4O2
